US07705004B2
4-(4-(1-methyl-1H-indazol-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide
To a solution of 4-(4-(1-methyl-1H-indazol-6-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide (12 mg, 0.022 mmol) in dioxane (2 mL), aq. 1N KOH (2 mL, 2.00 mmol) was added. The mixture was stirred at 70° C. for 20 h. HOAc (1.0 mL) was added. The mixture was purified by HPLC to give the titled compound (2 mg). MS 399.2 (M+H) (Compound 23-1).

reactant | 4-(4-(1-methyl-1H-indazol-6-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide | 0.022 mmol, 12 mg | CN1N=CC2=CC=C(C=C12)NC=1C2=C(N=C(N1)NC1=CC=C(C(=O)N)C=C1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C28H24N8O3S
reactant | KOH | 2.00 mmol, 1N, 2 mL | [OH-].[K+]
reactant | HOAc | 1.0 mL | CC(=O)O | C2H4O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 4-(4-(1-methyl-1H-indazol-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide | 2 mg | CN1N=CC2=CC=C(C=C12)NC=1C2=C(N=C(N1)NC1=CC=C(C(=O)N)C=C1)NC=C2 | C21H18N8O
